data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_584205_1,[C:1]([C:2]([O:6][H:10])=[O:9])(/[C:3]([N:4]([H:14])[H:15])=[C:5](/[O:8][H:12])[H:16])([O:7][H:11])[H:13]>>[C:1](=[C:3](/[N:4]([H:14])[H:15])[C:5]([C:2]([O:6][H:10])=[O:9])([O:8][H:12])[H:16])(\[O:7][H:11])[H:13],55.09826499992897
MR_126274_0,[C:1](/[N:8]=[C:5](/[C:2]([H:13])([H:14])[H:15])[C:7](=[C:6]([C:3]([H:16])([H:17])[H:18])[C:4]([H:19])([H:20])[H:21])[H:9])([H:10])([H:11])[H:12]>>[C:1]([N:8]1[C:5]([C:2]([H:13])([H:14])[H:15])=[C:7]([H:9])[C:6]1([C:3]([H:16])([H:17])[H:18])[C:4]([H:19])([H:20])[H:21])([H:10])([H:11])[H:12],42.91095999998774
MR_226151_2,[C:1]([C:3]([H:16])([H:17])[H:18])([N:4]([C:2]([H:13])([H:14])[H:15])[H:9])(/[N:8]=[C:5](\[C:6](=[C:7]([H:19])[H:20])[H:12])[H:11])[H:10]>>[C:1](\[C:3]([H:16])([H:17])[H:18])(=[N:8]\[C:5]1([H:11])[C:6]([N:4]([C:2]([H:13])([H:14])[H:15])[H:9])([H:12])[C:7]1([H:19])[H:20])[H:10],60.46150749997807
MR_337105_1,[C:1]1([H:11])([H:12])[C:5](/[C:6]([C:3]([H:16])([H:17])[H:18])=[N:4]/[C:2]([H:13])([H:14])[H:15])([O:9][H:10])[C:7]1=[C:8]([H:19])[H:20]>>[C:1]1([H:11])([H:12])[C:5]([O:9][H:10])=[C:6]([C:3]([H:16])([H:17])[H:18])[N:4]([C:2]([H:13])([H:14])[H:15])[C:7]1=[C:8]([H:19])[H:20],65.02468750001398
MR_398548_0,[C:1](/[C:5](=[C:3]([C:2](\[O:6][H:9])=[N:8]\[N:4]([H:11])[H:12])/[O:7][H:10])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:5]1([H:13])[C:3]([O:7][H:10])=[C:2]([O:6][H:9])[N:8]1[N:4]([H:11])[H:12])([H:14])([H:15])[H:16],46.30887250000512
MR_548250_0,[C@:1]([C:2]([O:8][H:10])=[O:9])(/[C:3]([N:5]([H:14])[H:15])=[C:7](\[N:6]([H:16])[H:17])[H:18])([N:4]([H:12])[H:13])[H:11]>>[C:1](=[C:3](/[N:5]([H:14])[H:15])[C@:7]([C:2]([O:8][H:10])=[O:9])([N:6]([H:16])[H:17])[H:18])(\[N:4]([H:12])[H:13])[H:11],57.48590250000021
MR_446339_0,[C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])([C:4](=[O:7])[H:9])[O:5][O:6][H:8]>>[C:1]1([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])[C@:4]([O:5][O:6][H:8])([H:9])[O:7]1,55.75902250000851
MR_565118_0,[C:1]1([O:6][H:8])([O:7][H:9])[C:2]([C:4]([H:13])([H:14])[H:15])([H:10])[C:3]([H:11])([H:12])[O:5]1>>[C:1]([C:2]([C:3]([O:5][H:8])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[H:10])(=[O:6])[O:7][H:9],29.79997499998873
MR_654327_1,[C@@:1]([N:5]([C:2]([H:15])([H:16])[H:20])[C:3]([H:17])([H:18])[H:19])([N:7]([H:11])[H:12])(/[N:9]=[C:6](\[C:4]([H:21])([H:22])[H:23])[N:8]([H:13])[H:14])[H:10]>>[C:1](\[N:7]([H:11])[H:12])(=[N:9]/[C@:6]([C:4]([H:21])([H:22])[H:23])([N:5]([C:2]([H:15])([H:16])[H:20])[C:3]([H:17])([H:18])[H:19])[N:8]([H:13])[H:14])[H:10],45.39836999998542
MR_64746_2,[C:1]([C:3]1([C:7]([C:2]([H:17])([H:18])[H:19])([H:9])[H:13])[C:5](/[C:6](=[N:4]/[H:10])[H:12])([H:11])[O:8]1)([H:14])([H:15])[H:16]>>[C:1](/[C:3](=[C:7](/[C:2]([H:17])([H:18])[H:19])[H:13])[O:8]/[C:5](=[C:6](\[N:4]([H:9])[H:10])[H:12])[H:11])([H:14])([H:15])[H:16],39.36433000002481
MR_91524_0,[C:1]([N:3]([N:6]([H:10])[H:11])[H:9])(/[C:4](=[C:5](/[C:2]([H:18])([H:19])[H:20])[N:8]([H:14])[H:15])[N:7]([H:12])[H:13])([H:16])[H:17]>>[C:1]1([H:16])([H:17])[N:3]([N:6]([H:10])[H:11])[C:4]1([C:5]([C:2]([H:18])([H:19])[H:20])([N:8]([H:14])[H:15])[H:9])[N:7]([H:12])[H:13],60.7664725000285
MR_149994_1,[C:1](\[C:2]([H:13])([H:14])[H:15])(=[N:7]/[C:4]([C:3]([H:16])([H:17])[H:18])([N:5]([H:10])[H:11])[C:6](=[O:8])[H:12])[H:9]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:6](=[O:8])[H:12])(/[N:7]=[C:4](\[C:3]([H:16])([H:17])[H:18])[N:5]([H:10])[H:11])[H:9],66.31419999996851
MR_542782_0,[C@@:1]([N:3]([O:6][H:8])[O:7][H:9])([N:4]([H:11])[H:12])([O:5][C:2]([H:13])([H:14])[H:15])[H:10]>>[C@:1]([N:3]([O:5][C:2]([H:13])([H:14])[H:15])[O:6][H:8])([N:4]([H:11])[H:12])([O:7][H:9])[H:10],59.83275249999608
MR_350430_2,[C:1]1([O:8][H:10])([O:9][H:11])[C:2]([C:5]([H:15])([H:16])[H:17])([C:6]([H:18])([H:19])[H:20])[C:4]([H:13])([H:14])[C:3]1([C:7]([H:21])([H:22])[H:23])[H:12]>>[C:1]([C:2]([C:4]([C:3]([C:7]([H:21])([H:22])[H:23])([H:11])[H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([O:8][H:10])=[O:9],66.38448000000508
MR_166440_0,[C:1]([C:3]([C:4]1([C:2]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[N:7]1[H:8])=[O:6])([H:9])([H:10])[H:11]>>[C:1](/[C:3](=[C:4](\[C:2]([H:12])([H:13])[H:14])[N:7]=[C:5]([H:15])[H:16])[O:6][H:8])([H:9])([H:10])[H:11],54.45445000002067
MR_451199_0,[C:1](/[C:6](=[C:2]([C:3](\[N:4]([H:11])[H:12])=[C:5](/[O:8][H:10])[H:13])/[O:7][H:9])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:6]1([H:14])[C:2]([O:7][H:9])=[C:3]([N:4]([H:11])[H:12])[C:5]1([O:8][H:10])[H:13])([H:15])([H:16])[H:17],42.77228249998117
MR_662324_0,[C@@:1]([C:2]([N:9]=[C:4]([N:6]([H:13])[H:14])[N:7]([H:15])[H:16])([H:17])[H:18])([C:3]([H:19])([H:20])[H:21])([N:5]([H:11])[H:12])[O:8][H:10]>>[C@:1]1([C:3]([H:19])([H:20])[H:21])([N:5]([H:11])[H:12])[C:2]([H:17])([H:18])[N:9]1[C:4]([N:6]([H:13])[H:14])([N:7]([H:15])[H:16])[O:8][H:10],64.84020250001606
